*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/8.20e-03[uF]/80[V]
* Murata P/N :GCM2195C1K822JA16
* Property : C = 8.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2195C1K822JA16 Port1 Port2
C01 Port1 N01 8.20e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 2.39e-10
R03 N02 N03 3.04e-03
L04 N03 N04 6.91e-11
R04 N03 N04 2.51e-01
L05 N04 N05 6.46e-11
R05 N04 N05 1.04e-02
L06 N05 N06 3.20e-10
R06 N05 N06 4.56e-03
C07 N06 N07 2.84e-08
L07 N06 N07 3.50e-11
R07 N06 N07 2.92e-01
C08 N07 N08 1.02e-08
L08 N07 N08 3.93e-11
R08 N07 N08 3.45e-01
C09 N08 N09 5.24e-08
L09 N08 N09 3.65e-12
R09 N08 N09 5.46e-02
C10 N09 N10 1.24e-08
L10 N09 N10 9.66e-12
R10 N09 N10 1.13e-01
C11 N10 Port2 2.09e-12
L11 N10 Port2 1.08e-10
R11 N10 Port2 6.79e+01
.ENDS GCM2195C1K822JA16
